US09210927B2
Preparation of (E)-2-Chloro-N-(2-oxo-2-((2,2,2-trifluoroethyl)amino)ethyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide (AC64)
To a stirred solution of glycine amide (0.15 g, 0.58 mmol) in CH2Cl2 (5 mL) was added trimethylaluminum (2 M solution in toluene; 1.45 mL, 2.91 mmol) dropwise, and the reaction mixture was stirred at 28° C. for 30 min. A solution of (E)-ethyl 2-chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoate (0.3 g, 0.58 mmol) in CH2Cl2 (5 mL) was added drop wise to the reaction mixture at 28° C. The reaction mixture was stirred at reflux for 18 h, cooled to 25° C., quenched with 1N HCl solution (50 mL) and extracted with CH2Cl2 (2×50 mL). The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The crude compound was purified by flash chromatography (SiO2, 100-200 mesh; eluting with 40% EtOAc in n-hexane) to afford the title compound as yellow solid (0.15 g, 50%): mp 83-85° C.; 1H NMR (400 MHz, CDCl3) δ 7.72 (d, J=8.0 Hz, 1H), 7.44 (s, 1H), 7.40 (s, 2H), 7.36 (d, J=6.8 Hz, 1H), 7.05 (t, J=5.2 Hz, 1H), 6.70 (t, J=5.2 Hz, 1H), 6.57 (d, J=15.6 Hz, 1H), 6.44 (dd, J=15.6, 8.0 Hz, 1H), 4.23 (d, J=5.6 Hz, 2H), 4.15 (m, 1H), 4.01 (m, 2H); ESIMS m/z 580.72 ([M−H]−).

reactant | glycine amide | 0.58 mmol, 0.15 g | NCC(=O)N | C2H6N2O
reactant | trimethylaluminum | 2.91 mmol, 2 M, 1.45 mL | C[Al](C)C
reactant | (E)-ethyl 2-chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoate | 0.58 mmol, 0.3 g | ClC1=C(C(=O)OCC)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H13Cl4F3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-Chloro-N-(2-oxo-2-((2,2,2-trifluoroethyl)amino)ethyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide | 0.15 g, 50% | ClC1=C(C(=O)NCC(NCC(F)(F)F)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H14Cl4F6N2O2
